US07390910B2
N-{1-[(1-Formyl-2-methyl-propyl)-methyl-carbamoyl]-2,2-dimethyl-propyl}-3-methyl-2-methylamino-3-phenyl-butyramide
A solution of N,β,β-trimethyl-L-phenylalanyl-N1-[(1S,2E)-3-carboxy-1-isopropylbut-2-enyl]-N1,3-dimethyl-L-valinamide (1.0 g) in methanol (20 mL) is added to 100 mL of methanol at −78° C. which had been treated with ozone until the solution is blue. The resulting colorless reaction mixture is treated with ozone at −78° C. until the blue color remained. After 5 min dimethylsulfide (2 mL) is added. The reaction mixture is allowed to warm to room temperature and then concentrated in vacuo to give the title compound as an oil. MS (ES): m/z 418.4 (M+H).

reactant | N,β,β-trimethyl-L-phenylalanyl-N1-[(1S,2E)-3-carboxy-1-isopropylbut-2-enyl]-N1,3-dimethyl-L-valinamide | 1.0 g | CN[C@@H](C(C1=CC=CC=C1)(C)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N(C)[C@H](\C=C(/C)\C(=O)O)C(C)C | C27H43N3O4
reactant | ozone | O=[O+][O-] | O3
reactant | dimethylsulfide | 2 mL | CSC | C2H6S
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
product | N-{1-[(1-Formyl-2-methyl-propyl)-methyl-carbamoyl]-2,2-dimethyl-propyl}-3-methyl-2-methylamino-3-phenyl-butyramide | C(=O)C(C(C)C)N(C(=O)C(C(C)(C)C)NC(C(C(C)(C1=CC=CC=C1)C)NC)=O)C | C24H39N3O3
